US08486952B2
(6S,7S)-2-chloro-4-(dimethylamino)-7-phenyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-6-ol
To a solution of 2-chloro-N,N-dimethyl-7-phenyl-5H-cyclopenta[d]pyrimidin-4-amine (113 mg) in THF (2 mL) at rt was added borane dimethyl sulfide complex in THF (2.0 M solution, 0.41 mL), and the reaction mixture was stirred at rt for 5 h. Water (0.50 mL) was added carefully, followed by 30% H2O2 (0.50 mL) and 1 N NaOH (1 mL). 5 mL EtOAc was added, and the r×n mixture was stirred at rt for 12 h. The crude product was purified by prep. TLC eluting with 50% EtOAc/Hexanes to give the title compound as a yellowish solid (44 mg). LC-MS (M−H2O+H)+=290.05.

reactant | 2-chloro-N,N-dimethyl-7-phenyl-5H-cyclopenta[d]pyrimidin-4-amine | 113 mg | ClC=1N=C(C2=C(N1)C(=CC2)C2=CC=CC=C2)N(C)C | C15H14ClN3
reactant | Water | 0.50 mL | O | H2O
reactant | H2O2 | 0.50 mL | OO | H2O2
reactant | NaOH | 1 N, 1 mL | [OH-].[Na+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 2.0 M, 0.41 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
product | (6S,7S)-2-chloro-4-(dimethylamino)-7-phenyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-6-ol | 44 mg | ClC=1N=C(C2=C(N1)[C@@H]([C@H](C2)O)C2=CC=CC=C2)N(C)C | C15H16ClN3O
